US03962445
a. 1-Ethyl-4-hydroxy-6-methyl carbostyril
N-Ethyl-5-methyl anthranilic acid (17.6g- 0.098 mole, m.p. 159°C) was refluxed in acetic acid (43 ml) and acetic anhydride (43 ml) for 12 hrs. The dark red solution was cooled and poured onto crushed ice. The mixture was made alkaline filtered off tarry material and neutrallised with hydrochloric acid. The yellow crystalline product was filtered off, washed well with water and recrystallised from ethanol, m.p. 275°-280° (Found- C, 70,87, H, 6.34, N, 7.17 C12H13NO2 requires; C, 70.88; H, 6.44; N, 6.89%).

reactant | N-Ethyl-5-methyl anthranilic acid | 0.098 mole, 17.6g | C(C)NC=1C(C(=O)O)=CC(=CC1)C | C10H13NO2
reactant | acetic anhydride | 43 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 43 ml | C(C)(=O)O | C2H4O2
product | 1-Ethyl-4-hydroxy-6-methyl carbostyril | C(C)N1C(=O)C=C(C2=CC(=CC=C12)C)O | C12H13NO2
